US06187393B1
2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate.
2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate. 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hex-2-enoate. 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate. 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate. 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate. 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate. 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate. 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate. 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate. 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate. 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hex-2-enoate. 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate. 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate.

reactant | 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate | C(\C=C\CC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C26H32N2O2
reactant | 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hex-2-enoate | C(\C=C\CCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C27H34N2O2
reactant | 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate | C(\C=C\CCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C28H36N2O2
reactant | 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate | C(\C=C\CCCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C29H38N2O2
reactant | 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate | C(\C=C\C)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C27H34N2O2
reactant | 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate | C(\C=C\CC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C28H36N2O2
reactant | 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate | C(\C=C\CCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C30H40N2O2
reactant | 2-[4-(4-Pentylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate | C(\C=C\CCCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C31H42N2O2
reactant | 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate | C(\C=C\C)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C29H38N2O2
reactant | 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-pent-2-enoate | C(\C=C\CC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C30H40N2O2
reactant | 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hex-2-enoate | C(\C=C\CCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C31H42N2O2
reactant | 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-hept-2-enoate | C(\C=C\CCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C32H44N2O2
reactant | 2-[4-(4-Heptylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-oct-2-enoate | C(\C=C\CCCCC)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C33H46N2O2
product | 2-[4-(4-Propylbicyclo[2.2.2]octyl)phenyl]pyrimidin-5-yl (E)-but-2-enoate | C(\C=C\C)(=O)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C25H30N2O2
